US05252560
6H-1,4-Dioxino[2,3-f]isoindole-6,8(7H)-dione
A mixture of 1,4-benzodioxan-6,7-dicarboxylic acid (100 mg) and urea (54 mg) was heated to 160° for 2 h. When cool, the mixture was diluted with water and the resulting solid collected by filtration and washed with water and dried to afford the title compound (80 mg). M.p. 277°-280°.

reactant | 1,4-benzodioxan-6,7-dicarboxylic acid | 100 mg | O1CCOC2=C1C=C(C(=C2)C(=O)O)C(=O)O | C10H8O6
reactant | urea | 54 mg | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 6H-1,4-Dioxino[2,3-f]isoindole-6,8(7H)-dione | 80 mg | O1C=COC=2C1=CC=1C(NC(C1C2)=O)=O | C10H5NO4
